US09399637B2
Step 1) tert-butyl 9((2-chloro-5-methylpyrimidin-4-yl)amino)-3-azaspiro[5.5]undecane-3-carboxylate
To a solution of 2,4-dichloro-5-methyl-pyrimidine (0.58 g, 3.60 mmol) and tert-butyl 9-amino-3-azaspiro[5.5]undecane-3-carboxylate (1.44 g, 5.37 mmol) in EtOH (25 mL) was added Et3N (0.86 g, 8.50 mmol). After addition, the reaction mixture was stirred at 100° C. in a sealed tube for 25.5 h and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/PE (v/v)=1/2) to give the title compound as a yellow solid (332.2 mg, 24%).

reactant | 2,4-dichloro-5-methyl-pyrimidine | 3.60 mmol, 0.58 g | ClC1=NC=C(C(=N1)Cl)C | C5H4Cl2N2
reactant | tert-butyl 9-amino-3-azaspiro[5.5]undecane-3-carboxylate | 5.37 mmol, 1.44 g | NC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C15H28N2O2
reactant | Et3N | 8.50 mmol, 0.86 g | CCN(CC)CC | C6H15N
solvent | EtOH | 25 mL | CCO | C2H6O
product | tert-butyl 9((2-chloro-5-methylpyrimidin-4-yl)amino)-3-azaspiro[5.5]undecane-3-carboxylate | 332.2 mg, 24% | ClC1=NC=C(C(=N1)NC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1)C | C20H31ClN4O2
